US09108957B2
4-[4-((R)-1-Phenyl-ethyl)-[1,4]oxazepan-7-yl]-benzamide (diastereomer type A) (0.28 g, 0.86 mmol) was dissolved in N,N-dimethylacetamide dimethyl acetal (1 mL) and the solution was stirred for one hour at 110° C. The mixture was concentrated and then the residue was dissolved in 1,4-dioxane (2 mL). To the solution was added 1N sodium hydroxide aqueous solution (1 mL), hydroxylamine hydrochloride (0.06 g, 0.86 mmol) and acetic acid (2 mL) and the mixture was refluxed for one hour. After cooling to room temperature, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic extracts were dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by flash column chromatography on silica gel (hexane/ethyl acetate=5/1 to 1/1 as eluants) to yield 7-[4-(3-methyl-[1,2,4]oxadiazol-5-yl)-phenyl]-4-((R)-1-phenyl-ethyl)-[1,4]oxazepane (diastereomer type A) (0.27 g, 0.75 mmol, 88%) as white solid.

reactant | 4-[4-((R)-1-Phenyl-ethyl)-[1,4]oxazepan-7-yl]-benzamide | C1(=CC=CC=C1)[C@@H](C)N1CCOC(CC1)C1=CC=C(C(=O)N)C=C1 | C20H24N2O2
reactant | sodium hydroxide | 1N, 1 mL | [OH-].[Na+]
reactant | hydroxylamine hydrochloride | 0.86 mmol, 0.06 g | Cl.NO
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylacetamide dimethyl acetal | 1 mL | COC(C)(N(C)C)OC | C6H15NO2
solvent | water | O | H2O
product | 7-[4-(3-methyl-[1,2,4]oxadiazol-5-yl)-phenyl]-4-((R)-1-phenyl-ethyl)-[1,4]oxazepane | CC1=NOC(=N1)C1=CC=C(C=C1)C1CCN(CCO1)[C@H](C)C1=CC=CC=C1 | C22H25N3O2
